US08445489B2
Ethyl (3-hydroxymethylphenyl)carbamate
50 g (406 mmol) of 3-aminobenzyl alcohol are suspended in 750 ml of dichloromethane under a nitrogen atmosphere and stirred at room temperature for 30 min and subsequently cooled to 0° C. 49 g (452 mmol) of ethyl chloroformate are slowly added dropwise. After the addition, the reaction mixture is stirred for 20 h and at the same time slowly warmed to room temperature. 300 ml of 1M potassium carbonate solution are added to the suspension formed (evolution of gas!). The organic phase is separated off, the aqueous phase is extracted with 200 ml of dichloromethane, the combined organic phases are washed with saturated sodium chloride solution, dried over sodium sulfate, and the solvent is distilled off.

reactant | 3-aminobenzyl alcohol | 406 mmol, 50 g | NC=1C=C(CO)C=CC1 | C7H9NO
reactant | ethyl chloroformate | 452 mmol, 49 g | ClC(=O)OCC | C3H5ClO2
reactant | potassium carbonate | 1M, 300 ml | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 750 ml | ClCCl | CH2Cl2
product | Ethyl (3-hydroxymethylphenyl)carbamate | OCC=1C=C(C=CC1)NC(OCC)=O | C10H13NO3
